US07361744B2
(1g) Methyl 3-O-benzoyl-N-benzoyloxycarbonyl-2,5-dideoxy-2,5-imino-α-D-lyxofuranoside
Methyl N-benzoyloxycarbonyl-2,5-dideoxy-2,5-imino-α-D-lyxofuranoside (Tetrahedron, 1986, vol. 42, p. 5685-5692) (13.9 g, 49.8 mmol) was dissolved in methylene chloride (200 mL) and pyridine (20 mL, 249.0 mmol) and benzoyl chloride (11.6 mL, 99.6 mmol) were added thereto, followed by stirring of the mixture at room temperature for 2 hours. After 1N hydrochloric acid (200 mL) was added to the reaction mixture at 0° C. and the mixture was extracted with methylene chloride (100 mL), the organic layer was washed with saturated aqueous sodium hydrogencarbonate (200 mL) and saturated brine (200 mL) and dried with anhydrous sodium sulfate, followed by distilling off of the solvent under reduced pressure. The residue was purified using silica gel flash column chromatography (hexane:ethyl acetate, 5:1-3:1, V/V) to obtain the desired title compound (15.82 g, yield 83%) as a colorless solid.

reactant | Methyl N-benzoyloxycarbonyl-2,5-dideoxy-2,5-imino-α-D-lyxofuranoside | 49.8 mmol, 13.9 g | C(C1=CC=CC=C1)(=O)OC(=O)N1[C@@H]2[C@@H](OC)O[C@@H]([C@@H]2O)C1 | C14H15NO6
reactant | pyridine | 249.0 mmol, 20 mL | N1=CC=CC=C1 | C5H5N
reactant | benzoyl chloride | 99.6 mmol, 11.6 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | hydrochloric acid | 1N, 200 mL | Cl | ClH
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
product | Methyl 3-O-benzoyl-N-benzoyloxycarbonyl-2,5-dideoxy-2,5-imino-α-D-lyxofuranoside | 15.82 g, yield 83% | C(C1=CC=CC=C1)(=O)O[C@@H]1[C@H]2[C@@H](OC)O[C@@H]1CN2C(=O)OC(C2=CC=CC=C2)=O | C21H19NO7
